US07714168B2
To 50 ml of N-methylpyrrolidone were added 10 g of 3,4,5-trifluorobromobenzene and 8.5 g of copper cyanide and the mixture obtained was stirred at 150° C. for 4 hours. Then, aqueous ammonia was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 5.0 g of 3,4,5-trifluorobenzonitrile.

reactant | 3,4,5-trifluorobromobenzene | 10 g | FC=1C=C(C=C(C1F)F)Br | C6H2BrF3
reactant | copper cyanide | 8.5 g | [Cu](C#N)C#N
reactant | ammonia | N | H3N
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 3,4,5-trifluorobenzonitrile | 5.0 g | FC=1C=C(C#N)C=C(C1F)F | C7H2F3N
